US08404696B2
[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}carbamic Acid tert-butyl ester (Compound 11)
3-(3-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylamino}propyl)-1H-quinazoline-2,4-dione (2 g, 4.1 mmol) was dissolved in pyridine 20 ml and then cooled. 0.93 g di-tert-butyl dicarbonate (4.3 mmol) was added thereto. After 3 hours, pyridine was removed under reduced pressure, and silica gel column chromatography was performed to give the title compound of yellow solid (0.25 g, 10.4%).

reactant | 3-(3-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylamino}propyl)-1H-quinazoline-2,4-dione | 4.1 mmol, 2 g | O=C1NC2=CC=CC=C2C(N1CCCNCCCCNCCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C26H32N6O4
reactant | di-tert-butyl dicarbonate | 4.3 mmol, 0.93 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | [3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}carbamic Acid tert-butyl ester | C(C)(C)(C)OC(N(CCCCNCCCN1C(NC2=CC=CC=C2C1=O)=O)CCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C31H40N6O6
